US04705807
(a) cis-3,4-Dichlorocinnamonitrile
3,4-Dichlorobenzaldehyde (175 gms; 1 m), cyanoacetic acid (100 g; 1.15 m), and pyridine were refluxed for one day. Evaporation produced an oil which was fractionally distilled using a column (1 ft. long, 1/2 inch diameter) filled with glass helices. Overall yield 88.9 g (45%; 30% cis/70% trans).

reactant | 3,4-Dichlorobenzaldehyde | 175 gms | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | cyanoacetic acid | 100 g | C(#N)CC(=O)O | C3H3NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-3,4-Dichlorocinnamonitrile | ClC=1C=C(\C=C/C#N)C=CC1Cl | C9H5Cl2N
